US08012976B2
A mixture of methyl 2,3-bis(3-(diethoxymethyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 2,3-bis(3-(diethoxymethyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (370 mg, 0.59 mmol) in hydrazine monohydrate (5 mL) and methanol (5 mL) was stirred at 40° C. for 2 hr. The mixture was cooled to room temperature and filtered to give 8,9-bis(3-(diethoxymethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (250 mg, yield 77%) as a light yellow solid. LC-MS (ESI) m/z: 544(M+1)+.

reactant | methyl 2,3-bis(3-(diethoxymethyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | C(C)OC(C=1C=C(C=CC1)C1NC=2C=CC=C(C2C(C1C1=CC(=CC=C1)C(OCC)OCC)=O)C(=O)OC)OCC | C33H39NO7
reactant | ethyl 2,3-bis(3-(diethoxymethyl)phenyl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.59 mmol, 370 mg | C(C)OC(C=1C=C(C=CC1)C1NC=2C=CC=C(C2C(C1C1=CC(=CC=C1)C(OCC)OCC)=O)C(=O)OCC)OCC | C34H41NO7
reactant | hydrazine monohydrate | 5 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 8,9-bis(3-(diethoxymethyl)phenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 250 mg, yield 77% | C(C)OC(C=1C=C(C=CC1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC(=CC=C1)C(OCC)OCC)OCC | C32H37N3O5
